US06251948B1
a: N-Cyano-N-methyl-3-toluidine
A solution of cyanogen bromide (1.59 g, 15 mmol) in diethylether (10 ml) was added dropwise to a stirred solution of N-methyl-3-toluidine (2.91 g, 24 mmol) in diethylether (90 ml) at 0° C. After the addition, the reaction mixture was stirred at room temperature for 14 h. A solution with white precipitates was formed and the precipitates were removed by filtration. The etherate solution was further washed with aqueous HCl (1N, 20 ml, three times) as well as brine (10 ml), dried over MgSO4, filtered, and concentrated. The product was obtained as a yellow liquid in 70% yield. IR (CH2Cl2): 2240 cm−1.

reactant | cyanogen bromide | 15 mmol, 1.59 g | N#CBr | CBrN
reactant | N-methyl-3-toluidine | 24 mmol, 2.91 g | CNC1=CC(=CC=C1)C | C8H11N
reactant | CH2Cl2 | C(Cl)Cl | CH2Cl2
reactant | diethylether | 10 ml | C(C)OCC | C4H10O
reactant | diethylether | 90 ml | C(C)OCC | C4H10O
product | N-Cyano-N-methyl-3-toluidine | 70% yield | C(#N)N(C1=CC(=CC=C1)C)C | C9H10N2
